US07714022B2
2-Benzoyl-4-oxo-6-phenyl-hexanoic acid ethyl ester:
Neat 3-oxo-3-phenyl-propionic acid ethyl ester (95%; 0.80 mL; 4.4 mmol) was added over 1.5 min to a soln of KO-t-Bu (1.0 M in THF; 4.40 mL; 4.4 mmol) in THF (4.4 mL) at 0° C. After 20 min, the above solid bromomethyl ketone (910 mg; 4.0 mmol) was added in one portion. After an additional 2 h, the r×n was quenched with aq. citric acid. The organic volatiles were removed on a rotary evaporator then the product extracted into EtOAc (25 mL). The soln was washed with water (2×8 mL), satd NaCl (1×8 mL), dried over MgSO4, filtered through a plug of silica with an EtOAc wash and concd. The product was purified by MPLC (silica; 0-->35% EtOAc in hexanes gradient) yielding a clear, colorless liquid (1.199 g; 97%). 1H NMR (CDCl3) δ 8.02 (m, 2H), 7.60 (m, 1H), 7.49 (m, 2H), 7.28 (m, 2H), 7.22-7.15 (m, 3H), 4.93 (dd, J=6.4, 7.6 Hz, 1H), 4.13 (q, J=7.2 Hz, 2H), 3.19 (dd, J=7.6, 18.4 Hz, 1H), 3.12 (dd, J=6.4, 18.0 Hz, 1H), 2.94-2.82 (m, 4H), 1.15 (t, J=7.0 Hz, 3H).

reactant | 3-oxo-3-phenyl-propionic acid ethyl ester | 4.4 mmol, 0.80 mL | C(C)OC(CC(C1=CC=CC=C1)=O)=O | C11H12O3
reactant | KO-t-Bu | 4.4 mmol, 1.0 M, 4.40 mL | O([K])C(C)(C)C
reactant | bromomethyl ketone | 4.0 mmol, 910 mg | BrCC(=O)CBr | C3H4Br2O
reactant | THF | 4.4 mL | C1CCOC1 | C4H8O
product | 2-Benzoyl-4-oxo-6-phenyl-hexanoic acid ethyl ester | C(C)OC(C(CC(CCC1=CC=CC=C1)=O)C(C1=CC=CC=C1)=O)=O | C21H22O4
